US06162811
1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-acetoxy-6H-pyrido[4,3-b]carbazole N-oxide dihydrochloride
The reaction of 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-acetoxy-6H-pyrido-[4,3-b]carbazole with 3-chloroperoxybenzoic acid in dichloromethane at room temperature results in the desired product, m.p.(cap): 120° C. (decomposition).

reactant | 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-acetoxy-6H-pyrido-[4,3-b]carbazole | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)OC(C)=O)C)C)C | C24H26N4O3
reactant | 3-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-acetoxy-6H-pyrido[4,3-b]carbazole N-oxide dihydrochloride | Cl.Cl.CN(CCNC(=O)C1=[N+](C=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)OC(C)=O)C)C)[O-])C | InChI=1S/C24H26N4O4.2ClH/c1-14-17-8-10-28(31)23(24(30)25-9-11-26(3)4)19(17)13-20-18-12-16(32-15(2)29)6-7-21(18)27(5)22(14)20;;/h6-8,10,12-13H,9,11H2,1-5H3,(H,25,30);2*1H
